US05506234
5-(2-Chlorobenzyl)-β-carboline-3-carboxylic acid isopropyl ester
0.2 g (0.55 mmol) of 5-(2-chlorobenzyl)-β-carboline-3-carboxylic acid ethyl ester is refluxed for 4 hours with 0.16 g (0.57 mmol) of titaniumtetraisopropylate in 50 ml of isopropanol. The solution concentrated by evaporation to half, the isopropyl ester crystallizes out during cooling. Yield 164 mg (79% of theory), melting point 258°-260° C.

reactant | 5-(2-chlorobenzyl)-β-carboline-3-carboxylic acid ethyl ester | 0.55 mmol, 0.2 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1)CC1=C(C=CC=C1)Cl | C21H17ClN2O2
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
catalyst | titaniumtetraisopropylate | 0.57 mmol, 0.16 g | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 5-(2-Chlorobenzyl)-β-carboline-3-carboxylic acid isopropyl ester | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1)CC1=C(C=CC=C1)Cl | C22H19ClN2O2
